US05932595
Following the procedure outlined in Example 15A, N-hydroxy-2-[4-(4-phenoxyphenylsulfonyl)-cyclohexanone-4-yl]-acetamide ethylene ketal (400 mg) was prepared from the corresponding N-tert-butoxy precursor. The above product was dissolved in a 1:1 mixture of acetone and 1M hydrochloric acid (40 ml) and stirred at room temperature for 18 hours. The reaction was concentrated under reduced pressure and extracted with ethyl acetate. Silica gel chromatography using 10% methanol/methylene chloride gave 2-[4-(4-phenoxyphenylsulfonyl)cyclohexanone-4-yl]-N-hydroxyacetamide as a white solid: m.p. 106° C. (dec), m/e=404 (MH+, FABMS).

reactant | N-hydroxy-2-[4-(4-phenoxyphenylsulfonyl)-cyclohexanone-4-yl]-acetamide ethylene ketal | 400 mg | C1COC(CC2(CCC(CC2)=O)S(=O)(=O)C2=CC=C(C=C2)OC2=CC=CC=C2)(NO)O1 | C22H25NO7S
solvent | acetone | CC(=O)C | C3H6O
solvent | hydrochloric acid | 1M, 40 ml | Cl | ClH
product | 2-[4-(4-phenoxyphenylsulfonyl)cyclohexanone-4-yl]-N-hydroxyacetamide | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C1(CCC(CC1)=O)CC(=O)NO | C20H21NO6S
